US06815452B2
a) Methyl 9-methylfluorene-9-carboxylate
From 7.6 g (0.33 mol) of sodium and 300 mL of ethanol, a sodium ethoxide solution is prepared, to which 69.6 g (0.33 mol) of 9-fluorenecarboxylic acid are added batchwise. After the addition has ended, the mixture is stirred for 2.5 hours at ambient temperature. Then it is evaporated to dryness, the residue is suspended in 600 mL of dimethylformamide, and 93.96 g (0.662 mol) of methyl iodide are added dropwise. The mixture is stirred for 3 hours at constant temperature. The cloudy solution is stirred into 500 mL of water and 300 mL of diethyl ether with cooling and extracted, the organic phase is washed with water and 10% sodium carbonate solution, dried, and evaporated to dryness. The residue is purified by column chromatography, eluent: cyclohexane-ethyl acetate (96:4). Yield: 12.61 g of white crystals (16% of theoretical yield); melting point: 108° C.-109° C.

reactant | sodium | 0.33 mol, 7.6 g | [Na] | Na
reactant | ethanol | 300 mL | C(C)O | C2H6O
reactant | 9-fluorenecarboxylic acid | 0.33 mol, 69.6 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | methyl iodide | 0.662 mol, 93.96 g | CI | CH3I
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | water | 500 mL | O | H2O
product | Methyl 9-methylfluorene-9-carboxylate | CC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC | C16H14O2
